US07989449B2
1-Bromo-3-(1-[4-{ethoxy}phenyl]-vinyl)-benzene
To a solution of commercially available 1-bromo-4-ethoxy-benzene [588-96-5] (0.1 g, 25 mmol, 1.0 eq) in tetrahydrofuran (20 mL) was added dropwise a solution of n-butyllithium (1.6 M solution in hexane, 14.0 mL, 0.9 eq) at −78° C. After stirring 30 min at −78° C. 3-bromoacetophenone (3.7 mL, 1.1 eq) in tetrahydrofuran (20 mL) was added dropwise. The mixture was allowed to warm up to room temperature and stirred for 2 h, then treated with 1 N HCl (10 mL), extracted with ethyl acetate, dried (sodium sulfate) and concentrated in vacuo. The crude was dissolved in acetic acid (50 mL) and sulfuric acid (10 mL) and the mixture was warmed to 75° C. for 30 min, cooled to room temperature and 1 N NaOH was added up to pH=7. The aqueous phase was extracted with dichloromethane (3×10 mL), dried (sodium sulfate) the solvent was removed and the residue was purified by column chromatography (cyclohexane) to afford the title compound as a colorless oil (2.3 g, 30%);

reactant | 1-bromo-4-ethoxy-benzene | 25 mmol, 0.1 g, 1.0 eq | BrC1=CC=C(C=C1)OCC | C8H9BrO
reactant | n-butyllithium | 1.6 M, 14.0 mL, 0.9 eq | C(CCC)[Li]
reactant | 3-bromoacetophenone | 3.7 mL, 1.1 eq | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
reactant | HCl | 1 N, 10 mL | Cl | ClH
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Bromo-3-(1-[4-{ethoxy}phenyl]-vinyl)-benzene | 2.3 g, 30% | BrC1=CC(=CC=C1)C(=C)C1=CC=C(C=C1)OCC | C16H15BrO
